US03992550
To 13.5 g. of 5-(3-methyl-2-octyl)-resorcinol and 10.5 g. of 4,4-dimethyl-2-carboethoxycyclopentanone [Canadian J. of Chem. 47, 1982-1988 (1969)] in 59 ml. of benzene was added 4.3 ml. of phosphorous oxychloride with stirring and refluxing for 6 hours. After the red solution was allowed to stand at room temperature for 8 hours, it was added to an ice an sodium carbonate solution. The colorless mixture was extracted with ether, dried over magnesium sulfate and concentrated. The mixture was extracted with cold pentane and the pentane was discarded. Theresidue [9-hydroxy-7-(3-methyl-2-octyl)-2,2,-dimethyl-4-oxo-1,2,3,4-tetrahydrocyclopenta[c] [1]benzopyran] was obtained as a gummy solid.

reactant | 5-(3-methyl-2-octyl)-resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | 4,4-dimethyl-2-carboethoxycyclopentanone | CC1(CC(C(C1)=O)C(=O)OCC)C | C10H16O3
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 9-hydroxy-7-(3-methyl-2-octyl)-2,2,-dimethyl-4-oxo-1,2,3,4-tetrahydrocyclopenta[c] [1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)CC(C1)(C)C)C(C)C(CCCCC)C | C23H32O3
